* NGSPICE file created from and_gate.ext - technology: sky130A

* Black-box entry subcircuit for sky130_ef_sc_hd__decap_12 abstract view
.subckt sky130_ef_sc_hd__decap_12 VGND VPWR VPB VNB
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__fill_1 abstract view
.subckt sky130_fd_sc_hd__fill_1 VGND VNB VPB VPWR
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__decap_6 abstract view
.subckt sky130_fd_sc_hd__decap_6 VGND VNB VPB VPWR
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__fill_2 abstract view
.subckt sky130_fd_sc_hd__fill_2 VGND VNB VPB VPWR
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__decap_8 abstract view
.subckt sky130_fd_sc_hd__decap_8 VGND VNB VPB VPWR
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__decap_3 abstract view
.subckt sky130_fd_sc_hd__decap_3 VGND VNB VPB VPWR
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__decap_4 abstract view
.subckt sky130_fd_sc_hd__decap_4 VGND VNB VPB VPWR
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__clkbuf_1 abstract view
.subckt sky130_fd_sc_hd__clkbuf_1 A VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__tapvpwrvgnd_1 abstract view
.subckt sky130_fd_sc_hd__tapvpwrvgnd_1 VGND VPWR
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__and2_1 abstract view
.subckt sky130_fd_sc_hd__and2_1 A B VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__buf_2 abstract view
.subckt sky130_fd_sc_hd__buf_2 A VGND VNB VPB VPWR X
.ends

.subckt and_gate VGND VPWR in1 in2 out
XFILLER_12_65 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_9_99 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_9_55 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_0_57 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_13_3 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_3_57 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_12_77 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_6
XFILLER_0_69 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_15_99 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_15_55 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_3_69 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_9_57 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_0_26 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_2
XFILLER_3_3 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_3_15 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_9_69 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_15_57 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_6_15 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_1_81 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_11_3 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_3_27 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_9_15 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_1_93 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_6
XFILLER_15_69 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_7_81 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_6_27 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_12_15 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_3_39 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_9_27 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_1_3 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_0_18 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_8
XFILLER_0_29 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_15_15 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_7_93 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_6
XPHY_0 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_13_81 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_12_27 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_9_39 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_4_83 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_1_51 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_4
XFILLER_15_27 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_6_29 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XPHY_1 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_16_81 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_13_93 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_6
XFILLER_10_83 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_15_39 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_7_51 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_4
XPHY_2 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_12_29 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_4_41 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_4_85 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XPHY_3 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_13_51 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_4
XFILLER_4_53 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_4_97 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_10_85 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_10_41 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XPHY_4 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_4_65 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_1_55 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_1_99 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_10_97 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_10_53 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_16_85 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XPHY_5 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_4_77 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_6
XFILLER_10_65 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_7_99 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_7_55 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XPHY_6 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_16_97 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_4_34 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_4
XFILLER_8_3 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_10_77 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_6
Xinput1 in1 VGND VGND VPWR VPWR _1_/B sky130_fd_sc_hd__clkbuf_1
XFILLER_1_57 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_16_32 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XPHY_7 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_13_99 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_13_55 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
Xinput2 in2 VGND VGND VPWR VPWR _1_/A sky130_fd_sc_hd__clkbuf_1
XFILLER_1_69 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_16_3 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_7_57 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XPHY_8 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_16_44 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_1_15 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_7_69 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XPHY_9 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_13_57 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_4_15 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XTAP_60 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XFILLER_1_27 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_6_3 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_7_15 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_16_57 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_13_69 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_4_27 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_5_81 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_8
XTAP_61 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XTAP_50 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XFILLER_10_15 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_1_39 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_16_69 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_7_27 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_13_15 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_14_3 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XTAP_51 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XFILLER_10_27 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_2_83 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XTAP_40 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XFILLER_16_15 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_11_81 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_7_39 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_13_27 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XTAP_52 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XFILLER_4_3 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XTAP_41 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XFILLER_16_27 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_11_93 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_6
XFILLER_8_83 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_13_39 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_5_51 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_4
XTAP_53 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XFILLER_10_29 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_2_41 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_2_85 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
X_2_ _2_/A VGND VGND VPWR VPWR _2_/X sky130_fd_sc_hd__clkbuf_1
XTAP_42 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XFILLER_12_3 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_14_83 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XTAP_54 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XTAP_43 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XFILLER_5_96 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_4
XFILLER_11_51 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_4
XFILLER_2_53 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_2_97 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
X_1_ _1_/A _1_/B VGND VGND VPWR VPWR _2_/A sky130_fd_sc_hd__and2_1
XFILLER_8_85 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_8_41 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XTAP_55 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XTAP_44 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XFILLER_2_65 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_2_3 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_8_97 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_8_53 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_14_85 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_14_41 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XTAP_56 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XTAP_45 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XTAP_34 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XFILLER_2_77 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_6
XFILLER_8_65 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_10_3 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_5_55 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XPHY_30 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_14_97 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XTAP_57 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XFILLER_14_53 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XTAP_46 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XTAP_35 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XFILLER_8_77 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_6
XTAP_58 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XFILLER_14_65 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XTAP_47 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XTAP_36 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XFILLER_5_89 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XPHY_31 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_11_99 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_11_55 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XPHY_20 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_5_57 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XTAP_59 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XPHY_32 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_14_77 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_6
XPHY_21 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XTAP_48 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XTAP_37 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XPHY_10 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XTAP_49 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XTAP_38 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XFILLER_5_69 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XPHY_33 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_11_57 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XPHY_22 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_2_15 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XPHY_11 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_0_81 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_5_15 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XTAP_39 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XPHY_12 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XPHY_23 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_11_69 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_2_27 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_8_15 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_0_6 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_3_81 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_5_27 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XPHY_24 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_9_3 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XPHY_13 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_11_15 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_8_27 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_3_93 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_6
XFILLER_9_81 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_14_15 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_5_39 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XPHY_25 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_11_27 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_2_29 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XPHY_14 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_9_93 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_6
XFILLER_15_81 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_14_27 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XPHY_26 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XPHY_15 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_6_83 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_11_39 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_3_51 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_4
XFILLER_8_29 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_0_41 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_0_85 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_15_93 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_6
XPHY_27 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XPHY_16 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_7_3 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_12_83 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_9_51 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_4
XFILLER_0_53 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_0_97 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_14_29 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XPHY_28 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XPHY_17 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_6_85 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_6_41 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
Xoutput3 _2_/X VGND VGND VPWR VPWR out sky130_fd_sc_hd__buf_2
XFILLER_15_3 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_15_51 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_4
XPHY_29 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XPHY_18 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_6_97 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_6_53 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_12_85 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_12_41 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XPHY_19 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_6_65 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_3_55 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_3_99 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_12_97 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_12_53 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_5_3 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_6_77 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_6
.ends

